US06933322B2
N-{5-[5-methyl-2-(4-fluoro-phenyl)-oxazol-4-ylmethoxy]naphthalen-2-yl}C,C,C-trifluoromethanesulfonamide
Using same procedure as above 5-methyl-2-(4-fluoro-phenyl)-4-Chloromethyloxazole was coupled with 2-Amino-5-naphthol then reacted with triflic anhydride to provide the title compound (0.20 g, 30%) as a white solid, m.p. 178-180° C. 1H NMR (DMSO-d6, 400 MHz): δ 2.48 (s, 3H), 5.20 (s, 2H), 7.16 (d, 1H), 7.33-7.38 (m, 3H), 7.46-7.52 (m, 2H), 7.73 (s, 1H), 7.97-8.02 (m, 2H), 8.13 (d, 1H). MS [EI, m/z]: 481 [M+H]+. Anal. Calcd. for C22H16F4N2O4S: C, 55.00; H, 3.36; N, 5.83. Found: C, 56.70; H, 4.27; N, 5.23.

reactant | 5-methyl-2-(4-fluoro-phenyl)-4-Chloromethyloxazole | CC1=C(N=C(O1)C1=CC=C(C=C1)F)CCl | C11H9ClFNO
reactant | 2-Amino-5-naphthol | NC1=CC=2C=CC=C(C2C=C1)O | C10H9NO
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | N-{5-[5-methyl-2-(4-fluoro-phenyl)-oxazol-4-ylmethoxy]naphthalen-2-yl}C,C,C-trifluoromethanesulfonamide | 0.20 g, 30% | CC1=C(N=C(O1)C1=CC=C(C=C1)F)COC1=C2C=CC(=CC2=CC=C1)NS(=O)(=O)C(F)(F)F | C22H16F4N2O4S
